US08067445B2
Step 3: {2′-[(Acetyl-carboxymethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid
{6-Methoxy-2′[(methoxycarbonylmethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid (0.094 g, 0.23 mmol), acetyl chloride (0.03 mL, 0.46 mmol), and triethylamine (0.08 mL, 0.57 mmol) were combined in CH2Cl2 (1 mL) and stirred at room temperature for 1 hour. Once no starting material was seen by analytical LCMS, aqueous 1N NaOH was added. After stirring at room temperature for 45 minutes, analytical LCMS indicated that both acids had been hydrolyzed to the free acid, and so the mixture was neutralized with aqueous 1N HCl and extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound. M+H is 440.

reactant | {6-Methoxy-2′[(methoxycarbonylmethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid | 0.23 mmol, 0.094 g | COC1=CC=C(C=C1C1=C(C=C(C=C1)C(F)(F)F)CNCC(=O)OC)CC(=O)O | C20H20F3NO5
reactant | acetyl chloride | 0.46 mmol, 0.03 mL | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.57 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | {2′-[(Acetyl-carboxymethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid | C(C)(=O)N(CC(=O)O)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O | C21H20F3NO6
